US05688795
substituting 1-(2-methoxyphenyl)piperazine and 2-(3-chloropropyl)amino-4,5-dimethoxy-N,N-dimethylbenzamide gave 4,5-dimethoxy-2-{3-[4-(2-methoxyphenyl)piperazin-1-yl]propylamino}-N,N,-dimethylbenzamide hydrochloride, m.p. 79°-82° C.; Anal.: Calcd. for C25H36N4O4.HCl.(H2O)0.25 : C, 60.35; H, 7.60; N, 11.26%; Found: C, 60.18H, 7.75; N, 11.35%;

reactant | 1-(2-methoxyphenyl)piperazine | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | 2-(3-chloropropyl)amino-4,5-dimethoxy-N,N-dimethylbenzamide | ClCCCNC1=C(C(=O)N(C)C)C=C(C(=C1)OC)OC | C14H21ClN2O3
product | 4,5-dimethoxy-2-{3-[4-(2-methoxyphenyl)piperazin-1-yl]propylamino}-N,N,-dimethylbenzamide hydrochloride | Cl.COC1=CC(=C(C(=O)N(C)C)C=C1OC)NCCCN1CCN(CC1)C1=C(C=CC=C1)OC | InChI=1S/C25H36N4O4.ClH/c1-27(2)25(30)19-17-23(32-4)24(33-5)18-20(19)26-11-8-12-28-13-15-29(16-14-28)21-9-6-7-10-22(21)31-3;/h6-7,9-10,17-18,26H,8,11-16H2,1-5H3;1H
